US09260422B2
Referring to Reaction Scheme 4, Stage 1, to a stirred solution of 6-(3,4-dichloro-phenyl)-pyrimidine-4-carbonitrile (1 eq) in anhydrous toluene (20 vol) at 0° C. was added lithium hexamethyldisilazide (2 eq) and the reaction mixture was stirred at ambient temperature for 2 hours under an atmosphere of nitrogen. The reaction mixture was cooled to 0° C. and quenched with HCl (3M). After 30 minutes stirring, water (40 vol) was added, followed by toluene (20 vol). The mixture was partitioned and the precipitate present in the aqueous phase was filtered off. The solid was suspended in a 3M solution of sodium hydroxide, stirred at room temperature for 30 minutes to give 6-(3,4-dichloro-phenyl)-pyrimidine-4-carboxamidine, which was used in the next stage without further purification.

reactant | 6-(3,4-dichloro-phenyl)-pyrimidine-4-carbonitrile | 1 eq | ClC=1C=C(C=CC1Cl)C1=CC(=NC=N1)C#N | C11H5Cl2N3
reactant | lithium hexamethyldisilazide | 2 eq | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(3,4-dichloro-phenyl)-pyrimidine-4-carboxamidine | ClC=1C=C(C=CC1Cl)C1=CC(=NC=N1)C(=N)N | C11H8Cl2N4
